US07923561B2
3,4,5-Trifluoro-N-[2-(indan-2-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=470.5 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 3,4,5-trifluorobenzenesulfonyl chloride and 2-aminoindane.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,4,5-trifluorobenzenesulfonyl chloride | FC=1C=C(C=C(C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 2-aminoindane | NC1CC2=CC=CC=C2C1 | C9H11N
product | 3,4,5-Trifluoro-N-[2-(indan-2-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC=1C=C(C=C(C1F)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1CC2=CC=CC=C2C1 | C24H18F3N3O2S
